US04661510
In 25 ml of 0.1N NaOH, was dissolved 2 g of 2-amino-3-(3,4-dihydroxyphenyl)propanoic acid. To the resulting solution, 3.8 ml of benzoyl chloride was added dropwise. The reaction mixture was maintained at a temperature of 0° C. for the duration of the reaction. The pH was maintained in a range of approximately by the addition of 0.2N NaOH. After about 3 hours, the reaction mixture was acidified with concentrated hydrochloric acid. The precipitate was removed by filtration and taken up in boiling carbon tetrachloride. The precipitate was then crystallized to yield a 2-(benzoylamino)-3-(3,4-dibenzoyloxyphenyl)propanoic acid.

reactant | 2-amino-3-(3,4-dihydroxyphenyl)propanoic acid | 2 g | NC(C(=O)O)CC1=CC(=C(C=C1)O)O | C9H11NO4
reactant | benzoyl chloride | 3.8 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydrochloric acid | Cl | ClH
solvent | NaOH | 0.1N, 25 ml | [OH-].[Na+]
solvent | NaOH | 0.2N | [OH-].[Na+]
product | 2-(benzoylamino)-3-(3,4-dibenzoyloxyphenyl)propanoic acid | C(C1=CC=CC=C1)(=O)NC(C(=O)O)CC1=CC(=C(C=C1)OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O | C30H23NO7
